US05608056
To a solution of (2R,4R)-1-allyloxycarbonyl-2-[2-{4-(t-butyldimethylsilyloxymethyl)imidazol-1-yl}ethyl]-4-methanesulfonyloxypyrrolidine (23.7 g) in acetonitrile (120 ml) was added concentrated hydrochloric acid (12 ml) dropwise under cooling in an ice-bath. After stirring at the same temperature for 2 hours, the mixture was quenched by the addition of a solution of sodium methoxide in methanol (28% W/W, 27.8 g) then ethyl acetate (240 ml) was added. The precipitate was filtered off and the filtrate was concentrated in vacuo. The residue was dissolved in acetonitrile (120 ml) and dried over magnesium sulfate. The solution was filtered and the filtrate was washed with hexane (200 ml×5) then concentrated in vacuo. The residual yellow paste was chromatographed on a 140 g of silica gel eluting with a mixture of chloroform and methanol (100:0 to 99:1 to 95:5) to give (2R,4R)-1-allyloxycarbonyl-2-[2-(4-hydroxymethylimidazol-1-yl) ethyl]-4-methanesulfonyloxypyrrolidine (6.02 g) as a yellow paste.

reactant | (2R,4R)-1-allyloxycarbonyl-2-[2-{4-(t-butyldimethylsilyloxymethyl)imidazol-1-yl}ethyl]-4-methanesulfonyloxypyrrolidine | 23.7 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)CCN1C=NC(=C1)CO[Si](C)(C)C(C)(C)C | C21H37N3O6SSi
reactant | hydrochloric acid | 12 ml | Cl | ClH
solvent | acetonitrile | 120 ml | C(C)#N | C2H3N
product | (2R,4R)-1-allyloxycarbonyl-2-[2-(4-hydroxymethylimidazol-1-yl) ethyl]-4-methanesulfonyloxypyrrolidine | 6.02 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)CCN1C=NC(=C1)CO | C15H23N3O6S
